US05242925
Analogously to Example 3, reaction of 1-(4-aminobutyl)-5-ethoxycarbonylbenzimidazole with 6-(N,N-bis(2-chloroethyl)amino)-1,4-benzodioxane ("B") gives 6-[4(4-(5-ethoxycarbonylbenzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane.

reactant | 1-(4-aminobutyl)-5-ethoxycarbonylbenzimidazole | NCCCCN1C=NC2=C1C=CC(=C2)C(=O)OCC | C14H19N3O2
reactant | 6-(N,N-bis(2-chloroethyl)amino)-1,4-benzodioxane | ClCCN(CCCl)C1=CC2=C(OCCO2)C=C1 | C12H15Cl2NO2
product | 6-[4(4-(5-ethoxycarbonylbenzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane | C(C)OC(=O)C1=CC2=C(N(C=N2)CCCCN2CCN(CC2)C2=CC3=C(OCCO3)C=C2)C=C1 | C26H32N4O4
